//////////////////////////
// Single rram 1T1R cell //
// v0.2 27/06/2017     //
//////////////////////////

simulator lang=spectre

ahdl_include "/opt/technology/rram/arizona_imec/rram.va"

/////////////////////////////////////////////
// Subcircuit and Parameters
/////////////////////////////////////////////

subckt rram_1t1r_nch_11_cell (plus minus sel)

	parameters

  // rram
  + rram_tstep=10p
  + rram_T0=300
  + rram_Vread=0.1

  // initial value
  // LRS
  // + rram_gap_ini=0.1e-9
  // HRS
  + rram_gap_ini=1.367e-9

  // parasitic components
	+ rram_R1=10 rram_Rh=1e15 rram_Cp=0.1f rram_R2=10


  // transistor
	// 1.1V
  + nchL=40n nchW=120n

	// Parasitic elements
	R1 (plus mid1) resistor r=rram_R1
	Rh (mid1 mid2) resistor r=rram_Rh
	Cp (mid1 mid2) capacitor c=rram_Cp

  mem0 (mid1 mid2) RRAM T0=rram_T0 gap_ini=rram_gap_ini tstep=rram_tstep Vread=rram_Vread
	R2 (mid2 minus) resistor r=rram_R2

  // source gate drain bulk
  txN0 (minus sel mid2 0) nch_mac l=nchL w=nchW m=1 nf=1

  aux_mem0_volt ( aux_mem0_volt 0 ) bsource v=v(mid1, mid2)

ends rram_1t1r_nch_11_cell
